Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fevers, neutropenia

 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
___ who is C1D14 CHOP-R for stage IV follicular lymphoma is 
admitted with fever and neutropenia.

He initiated therapy with CHOP on ___, and received 
rituximab on ___. He was last seen by his primary oncologist on 
___, where he was noted to have grade 1 GI side effects from 
therapy, but improvement in the cough that he had upon initial 
diagnosis of his disease (likely from adenopathy). 

On ___ he woke up with generalized malaise, mild headache, and 
a fever to ___. He called in to his primary oncologist's 
office, and was advised to present to the ED. Review of systems 
otherwise positive only for some mouth soreness without obvious 
oral lesion. 

On arrival to the ED, initial vitals were 99.5 88 111/69 16 99% 
RA
- Initial labs: ANC 180, H/H 12.5/28.7, PLT 284, BUN/Cr ___, 
lactate 1.5, flu negative, U/A with trace protein and few 
bacteria, AST/ALT ___ with Tbili of 0.4.
- Imaging: CXR with no acute intrathoracic process
- Consults: none
- Patient was given: cefepime 2g IV q8 (3 doses), 1 mg Ativan, 
NS, 300 mg allopurinol and 20 mg omeprazole

Prior to transfer vitals were 98.3 88 113/63 18 99% RA

Patient denies chills, night sweats, headache, vision changes, 
dizziness/lightheadedness, weakness/numbness, shortness of 
breath, cough, hemoptysis, chest pain, palpitations, abdominal 
pain, nausea/vomiting, diarrhea, hematemesis, 
hematochezia/melena, dysuria, hematuria, and new rashes.

 
Past Medical History:
Allergic rhinitis
Obesity
 
Social History:
___
Family History:
Mother with lung cancer, smoker age ___.
-Father with lung cancer, smoker died at age ___.  Lives with
partner, whom he met discharge.
-Uncle died of lung cancer.
-No other history of malignancy in the family
 
Physical Exam:
ADMISSION EXAM:
===============
VS: 98.6 119/78 92 18 97% RA
GENERAL: Pleasant man, in no distress, sittingin bed 
comfortably.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: Appears in no respiratory distress, clear to auscultation 
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Soft, non-tender, non-distended, normal bowel sounds, no 
hepatomegaly, no splenomegaly.
EXT: Warm, well perfused, no lower extremity edema, erythema or 
tenderness.
NEURO: A&Ox3, good attention and linear thought, Strength full 
throughout. Sensation to light touch intact.
SKIN: No significant rashes. Mild erythema on L posterior neck 
associated with biopsy site that is not warm or tender
ACCESS: PIV

DISCHARGE EXAM:
===============
VITALS: T 98.2, BP 115/71, HR 86, RR 18, Sa 97 Ra 
GENERAL: Pleasant man, in no distress, sitting in chair 
finishing breakfast.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: Appears in no respiratory distress, clear to auscultation 
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Soft, non-tender, non-distended, normal bowel sounds, no 
hepatomegaly, no splenomegaly.
EXT: Warm, well perfused, no lower extremity edema, erythema or 
tenderness.
NEURO: A&Ox3, good attention and linear thought, Strength full 
throughout. Sensation to light touch intact.
SKIN: No significant rashes. Mild erythema on L posterior neck 
associated with biopsy site that is not warm or tender
ACCESS: PIV
 
Pertinent Results:
ADMISSION LABS:
===============
___ 06:59AM   GLUCOSE-116* UREA N-12 CREAT-0.8 SODIUM-136 
POTASSIUM-4.4 CHLORIDE-97 TOTAL CO2-26 ANION GAP-13
___ 06:59AM   ALT(SGPT)-23 AST(SGOT)-14 ALK PHOS-130 TOT 
BILI-0.4
___ 06:59AM   CALCIUM-8.3* PHOSPHATE-3.6 MAGNESIUM-1.9
___ 06:59AM   WBC-1.4* RBC-3.93* HGB-10.3* HCT-32.4* MCV-82 
MCH-26.2 MCHC-31.8* RDW-13.7 RDWSD-40.1
___ 06:59AM   NEUTS-17* BANDS-7* ___ MONOS-28* EOS-2 
BASOS-1 ___ METAS-2* MYELOS-0 AbsNeut-0.34* AbsLymp-0.60* 
AbsMono-0.39 AbsEos-0.03* AbsBaso-0.01
___ 06:59AM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 06:59AM   PLT SMR-NORMAL PLT COUNT-245
___ 05:59AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 05:59AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 05:59AM URINE  RBC-2 WBC-1 BACTERIA-FEW* YEAST-NONE 
EPI-0
___ 08:50PM URINE  HOURS-RANDOM
___ 08:50PM URINE  HOURS-RANDOM
___ 08:50PM URINE  UHOLD-HOLD
___ 08:50PM URINE  GR HOLD-HOLD
___ 08:30PM URINE  HOURS-RANDOM
___ 08:30PM URINE  UHOLD-HOLD
___ 07:50PM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 06:31PM   LACTATE-1.5
___ 06:30PM   GLUCOSE-129* UREA N-12 CREAT-0.9 SODIUM-136 
POTASSIUM-4.4 CHLORIDE-93* TOTAL CO2-26 ANION GAP-17
___ 06:30PM   WBC-1.6* RBC-4.76 HGB-12.5* HCT-38.7* MCV-81* 
MCH-26.3 MCHC-32.3 RDW-13.5 RDWSD-38.5
___ 06:30PM   NEUTS-10* BANDS-1 ___ MONOS-30* EOS-2 
BASOS-3* ___ METAS-2* MYELOS-0 AbsNeut-0.18* AbsLymp-0.83* 
AbsMono-0.48 AbsEos-0.03* AbsBaso-0.05
___ 06:30PM   HYPOCHROM-NORMAL ANISOCYT-OCCASIONAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-OCCASIONAL 
POLYCHROM-NORMAL
___ 06:30PM   PLT SMR-NORMAL PLT COUNT-284

DISCHARGE LABS:
===============
___ 06:00AM BLOOD WBC-3.0* RBC-4.02* Hgb-10.5* Hct-33.0* 
MCV-82 MCH-26.1 MCHC-31.8* RDW-13.6 RDWSD-39.7 Plt ___
___ 06:00AM BLOOD Neuts-44 Bands-1 ___ Monos-22* 
Eos-2 Baso-0 Atyps-1* ___ Myelos-3* AbsNeut-1.35* 
AbsLymp-0.84* AbsMono-0.66 AbsEos-0.06 AbsBaso-0.00*
___ 06:00AM BLOOD Glucose-109* UreaN-10 Creat-0.8 Na-139 
K-4.4 Cl-100 HCO3-27 AnGap-12
___ 06:10AM BLOOD ALT-24 AST-15 AlkPhos-130 TotBili-0.3
___ 06:00AM BLOOD Calcium-8.6 Phos-3.5 Mg-2.1

IMAGING:
========
CXR PA/Lateral ___:

FINDINGS:  
  
PA and lateral views of the chest provided. There is no focal 
consolidation, effusion, or pneumothorax. The cardiomediastinal 
silhouette is normal. Imaged osseous structures are intact.  
Chronic appearing deformity of the right midshaft clavicle 
noted.  No free air below the right hemidiaphragm is seen. 
  
IMPRESSION:  
  
No acute intrathoracic process. 
  

 
Brief Hospital Course:
PATIENT SUMMARY:
================
___ male with stage IV grade 3A follicular lymphoma, 
currently s/p C1 of R-CHOP admitted with fever and neutropenia. 

ACUTE ISSUES:
=============
# Fever
# Neutropenia
No localizing source for fever evident by exam or clinical 
history. ___ 180 on admission. Started on IV cefepime. When ___ 
rose to 590, the patient was transitioned to ciprofloxacin. ___ 
on discharge was 1350. No further fevers during his 
hospitalization.

# Follicular lymphoma, Stage IV, grade 3A
# Anemia
Patient admitted on C1D15 of CHOP therapy. Anemia is mild and 
likely due
to bone marrow toxicity + hydration. No evidence of bleeding.
Patient will benefit from granulocyte colony stimulating factor 
with subsequent cycles.

TRANSITIONAL ISSUES:
====================
# Patient will likely benefit from granulocyte colony 
stimulating factor with subsequent cycles of chemotherapy. 
Consider neupogen vs. neulasta.

# Patient started on Bactrim and acyclovir this hospitalization.

NEW MEDICATIONS:
- Acyclovir 400 mg PO/NG Q12H 
- Sulfameth/Trimethoprim SS 1 TAB PO/NG DAILY 

CHANGED MEDICATIONS: NONE

HELD MEDICATIONS: NONE

CODE: Full Code
COMMUNICATION: Patient
EMERGENCY CONTACT HCP: Partner ___ ___, ___ is 
___ (sister) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. LORazepam 1 mg PO Q8H:PRN anxiety, nausea, insomnia 
3. Omeprazole 20 mg PO DAILY 
4. Ondansetron 8 mg PO Q8H:PRN nausea 
5. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN BREAKTHROUGH 
PAIN 
6. Prochlorperazine 10 mg PO Q8H:PRN nausea 

 
Discharge Medications:
1.  Acyclovir 400 mg PO Q12H 
RX *acyclovir 400 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
2.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
RX *sulfamethoxazole-trimethoprim 400 mg-80 mg 1 tablet(s) by 
mouth once a day Disp #*30 Tablet Refills:*0 
3.  Allopurinol ___ mg PO DAILY  
4.  LORazepam 1 mg PO Q8H:PRN anxiety, nausea, insomnia  
5.  Omeprazole 20 mg PO DAILY  
6.  Ondansetron 8 mg PO Q8H:PRN nausea  
7.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN BREAKTHROUGH 
PAIN  
8.  Prochlorperazine 10 mg PO Q8H:PRN nausea  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
========
Febrile neutropenia
Follicular lymphoma 

SECONDARY:
==========
Allergic rhinitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of your ___ 
___.

Why were you in the hospital?
-You came to the hospital because of a fever.

What happened in the hospital?
-You received IV antibiotics in order to treat a possible 
infection.
-Your blood counts were monitored closely.
-You were subsequently transitioned to an oral antibiotic.
-You had no further fevers and your counts improved.

What should you do after leaving the hospital?
-Take all of your medications as prescribed.
-Call your doctor or report to the nearest emergency room if you 
experience fever greater than 100.4°F, chills, night sweats, or 
other symptoms that concern him.
-You should follow-up with your doctors as ___ below.

We wish you the best,
Your ___ Care Team
 
Followup Instructions:
___